US06586467B2
Step B: (2S)-2-tert-Butoxycarbonylamino-3-(4-hydroxy-3-iodo-phenyl)-propionic acid benzyl ester
(2S)-2-tert-Butoxycarbonylamino-3-(4-hydroxy-3-iodo-phenyl)-propionic acid (490 mg. 1.2 mmol) of Step A is stirred in EtOAc (3.6 mL) with DIEA (418 μL, 2.4 mmol) at RT under N2. Benzyl bromide (171 μL, 1.44 mmol) is then added and the reaction mixture is then heated to 90° C. overnight. TLC in 3/1 hexane/EtOAc shows complete consumption of starting material (ninhydrin positive) and the appearance of two higher rf spots. The reaction is cooled to RT, diluted with EtOAc and washed with 1N HCl (2×30 mL) and with saturated NaHCO3 (2×30 mL). The organics are dried (MgSO4), filtered and concentrated to provide a mixture of mono- and dibenzylated products. Flash chromatography (3:1 hexane/EtOAc) affords the title compound, (2S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-3-iodo-phenyl)-propionic acid benzyl ester.

reactant | (2S)-2-tert-Butoxycarbonylamino-3-(4-hydroxy-3-iodo-phenyl)-propionic acid | 1.2 mmol, 490 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)O)I | C14H18INO5
reactant | DIEA | 2.4 mmol, 418 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Benzyl bromide | 1.44 mmol, 171 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | EtOAc | 3.6 mL | CCOC(=O)C | C4H8O2
product | (2S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-3-iodo-phenyl)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CC1=CC(=C(C=C1)O)I)NC(=O)OC(C)(C)C)=O | C21H24INO5
